US05665718
3 ml (17.25 mmol) of N-ethyldiisopropylamine and 0.8 ml (8.8 mmol) of propyl bromide were added to a solution of 0.550 g (1.68 mmol) of (S)-1-(5-aminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 30 ml of dimethylformamide, whereupon the mixture was stirred at 70° for 12 hours. The dimethylformamide was evaporated and the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous phase was washed twice with methylene chloride and the organic phases were dried with sodium sulfate, filtered and evaporated. Chromatography (silica gel, ethyl acetate/methanol 20:1) yielded 0.300 g (43%) of (S)-1-(5-dipropylaminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.28 (silica gel, ethyl acetate/methanol 20:1).

reactant | N-ethyldiisopropylamine | 17.25 mmol, 3 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propyl bromide | 8.8 mmol, 0.8 ml | C(CC)Br | C3H7Br
reactant | (S)-1-(5-aminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 1.68 mmol, 0.550 g | NCC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-dipropylaminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 0.300 g, 43% | C(CC)N(CCC)CC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C20H24N6O2S
